US07169775B2
(1-Butyl-2-iodo-4-phenyl-3H-imidazol-5-yl)-methanol (1.96 g), prepared by the method given in Example 2, step 2, is dissolved in 20 mL CH2Cl2. The solution is cooled to 0° C. and 3 equivalents of SOCl2 are added. The resulting solution is stirred at room temperature for 2 hours and then evaporated to dryness. The residue is dissolved in 5 mL of DMF and added to an ice cooled solution of 2 equivalents of 3-ethoxybenzylamine and 2 equivalents K2CO3 in 10 mL DMF. The mixture is stirred overnight at room temperature. The reaction is quenched with 20 mL water, extracted with EtOAc (3×30 mL), washed with water and brine, and dried over Na2SO4. Concentration and purification via silica gel chromatography provides (1-Butyl-2-iodo-4-phenyl-3H-imidazol-5-ylmethyl)-(3-ethoxy-benzyl)-amine.

reactant | (1-Butyl-2-iodo-4-phenyl-3H-imidazol-5-yl)-methanol | 1.96 g | C(CCC)N1C(NC(=C1CO)C1=CC=CC=C1)I | C14H19IN2O
reactant | SOCl2 | 3 equivalents | O=S(Cl)Cl | Cl2OS
reactant | 3-ethoxybenzylamine | 2 equivalents | C(C)OC=1C=C(CN)C=CC1 | C9H13NO
reactant | K2CO3 | 2 equivalents | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (1-Butyl-2-iodo-4-phenyl-3H-imidazol-5-ylmethyl)-(3-ethoxy-benzyl)-amine | C(CCC)N1C(NC(=C1CNCC1=CC(=CC=C1)OCC)C1=CC=CC=C1)I | C23H30IN3O
